US07851473B2
N-[4-(2-Oxopyrrolidin-1-yl)phenyl]-4-(4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxamide
A solution of bis(2,2,2-trichloroethyl) [4-(2-oxopyrrolidin-1-yl)phenyl]imidodicarbonate (200 mg, 0.379 mmol), 1-(4-phenyl-1,3-thiazol-2-yl)piperazine (196 mg, 0.758 mmol), diisopropylethylamine (0.132 ml, 0.758 mmol) and dimethyl sulfoxide (4 ml) was stirred at 70° C. for 24 hours, the reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was recrystallized from ethyl acetate to give 116 mg (68.2%) of the desired product as a solid.

reactant | bis(2,2,2-trichloroethyl) [4-(2-oxopyrrolidin-1-yl)phenyl]imidodicarbonate | 0.379 mmol, 200 mg | O=C1N(CCC1)C1=CC=C(C=C1)N(C(=O)OCC(Cl)(Cl)Cl)C(=O)OCC(Cl)(Cl)Cl | C16H14Cl6N2O5
reactant | 1-(4-phenyl-1,3-thiazol-2-yl)piperazine | 0.758 mmol, 196 mg | C1(=CC=CC=C1)C=1N=C(SC1)N1CCNCC1 | C13H15N3S
reactant | diisopropylethylamine | 0.758 mmol, 0.132 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethyl sulfoxide | 4 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-[4-(2-Oxopyrrolidin-1-yl)phenyl]-4-(4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxamide | 116 mg, 68.2% | O=C1N(CCC1)C1=CC=C(C=C1)NC(=O)N1CCN(CC1)C=1SC=C(N1)C1=CC=CC=C1 | C24H25N5O2S
